US04192890
47 g of 3-p-chloro benzoyl-benzoic acid were added to 470 cc of thionyl chloride and the mixture was refluxed for 3 hours and then cooled to 20° C. The mixture was concentrated to dryness by distillation under reduced pressure to obtain a residue of 3-p-chlorobenzoyl-benzoic acid chloride which as far as is known is not described in the literature. 54.8 gm of the said acid chloride were added to 500 cc of methylene chloride and after cooling to 5° C., 1.5 liters of a solution of 15.2 g per liter of diazomethane in methylene chloride was added thereto over 20 minutes.

reactant | 3-p-chloro benzoyl-benzoic acid | 47 g | ClC1=CC=C(C(=O)C=2C=C(C(=O)O)C=CC2)C=C1 | C14H9ClO3
reactant | thionyl chloride | 470 cc | S(=O)(Cl)Cl | Cl2OS
product | 3-p-chlorobenzoyl-benzoic acid chloride | ClC1=CC=C(C(=O)C=2C=C(C(=O)Cl)C=CC2)C=C1 | C14H8Cl2O2
